2192-03-24 12:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: airway management, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -SCx - sparse GNR
   -cont to do well on Trache collar
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Metronidazole - [**2192-3-21**] 10:01 PM
   Cefipime - [**2192-3-23**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-3-23**] 04:00 PM
   Furosemide (Lasix) - [**2192-3-24**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-24**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 64 (64 - 82) bpm
   BP: 129/45(67) {129/39(63) - 153/74(92)} mmHg
   RR: 24 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    810 mL
                                                                    200 mL
   PO:
                                                                    610 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                  1,800 mL
   Urine:
                                                                  3,555 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,745 mL
                                                                 -1,600 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: diffusely)
   Abdominal: Soft, Bowel sounds present, Tender: mild epigastric, Obese
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   159 K/uL
   88 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.8 mEq/L
   34 mg/dL
   96 mEq/L
   141 mEq/L
   38.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2192-3-21**]  11:07 AM
                             [**2192-3-21**]  02:11 PM
                             [**2192-3-21**]  02:34 PM
                             [**2192-3-22**]  06:18 AM
                             [**2192-3-22**]  06:33 AM
                             [**2192-3-22**]  03:48 PM
                             [**2192-3-23**]  03:20 AM
                             [**2192-3-23**]  03:49 AM
                             [**2192-3-23**]  04:27 PM
                             [**2192-3-24**]  03:34 AM
   WBC
   7.2
   5.4
   8.0
   Hct
   38.4
   36.7
   38.3
   Plt
   131
   136
   159
   Cr
   1.4
   1.0
   0.9
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   31
   37
   37
   Glucose
   168
   124
   233
   130
   205
   88
   Other labs: PT / PTT / INR:11.8/22.6/1.0, CK / CKMB /
   Troponin-T:23//<0.01, Differential-Neuts:85.5 %, Lymph:8.2 %, Mono:3.1
   %, Eos:3.0 %, Lactic Acid:0.7 mmol/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   # Shortness of breath:
   -improved significantly
   -Suspect fluid overload/CHF
   -chronically hypercarbic
   -less going for pneumonia
   -c/w aggressive pulm toilet
   -continue home meds
   #? tracheobronchitis
   -sparse GNR in sputum likely colonizer given chronic trache
   -in absense of sig sputum change would rec d/c abx
   # [**Last Name (un) **]/UTI:
   -creat at baseline 0.8
   # DMI:
   #Difficult access
   -PIV
   -needs PICC for abx
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-3-21**] 10:35 AM
   Arterial Line - [**2192-3-21**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent: